US07855292B2
E. (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoylamino]-3-(3-bromo-phenyl)-propionic acid
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoic acid was coupled to (S)-2-amino-3-(3-bromo-phenyl)-propionic acid methyl ester hydrochloride as in EXAMPLE 1, Part C. The methyl ester was hydrolyzed as in EXAMPLE 2, Part E, to afford the title compound. HPLC: RT=9.91 min. MS (ESI−): mass calcd. for C22H16BrIN4O5S2, 687.3; m/z found, 686 [M−H]−. 1H NMR (400 MHz, DMSO-d6): 13.05 (s, 1H), 11.77 (s, 1H), 9.03 (d, J=7.8, 1H), 8.45-8.35 (m, 2H), 7.92-7.86 (m, 1H), 7.82 (d, J=1.5, 1H), 7.53-7.51 (br m, 1H), 7.47-7.38 (m, 2H), 7.36-7.34 (m, 1H), 7.31-7.19 (m, 2H), 4.65-4.54 (m, 1H), 3.19 (dd, J=14.0, 4.7, 1H), 3.00 (dd, J=13.7, 10.8, 1H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)I | C13H8IN3O4S2
reactant | (S)-2-amino-3-(3-bromo-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC(=CC=C1)Br)N)=O
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoylamino]-3-(3-bromo-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(=O)O)CC1=CC(=CC=C1)Br)C=CC(=C2)I | C22H16BrIN4O5S2
